US08022062B2
3-Aminomethyl-5-fluoro-pyridine
In a Parr Bottle add 2,6-dichloro-3-cyano-5-fluoropyridine (20 g, 0.105 mol), ethanol (336 mL), triethylamine (24 mL), and 5% Pd/C (4 g). Place on a Parr Shaker Apparatus under 60 psi hydrogen for 1 h at ambient temperature. Filter the reaction mixture and bubble ammonia gas into filtrate for 10 min. Add Raney® nickel (5.2 g) and place on a Parr Shaker Apparatus under 500 psi hydrogen for 18 h at 60-70° C. Filter the reaction mixture and concentrate in vacuo. Dissolve in methanol and add 1N hydrogen chloride in ether until form a precipitate. Cool in an ice bath, filter off the precipitate, wash the solid several times with ether, and dry to give the title compound as the hydrochloride salt (12 g, 70%). MS (ES+) m/z: 127 (M+H)+. Dissolve the hydrochloride salt in water, add 0.1 N aqueous NaOH to adjust to pH 10, extract with DCM, dry the organic layer over Na2SO4, filter and concentrate to give the title compound.

reactant | 2,6-dichloro-3-cyano-5-fluoropyridine | 0.105 mol, 20 g | ClC1=NC(=C(C=C1C#N)F)Cl | C6HCl2FN2
reactant | ethanol | 336 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 4 g | [Pd] | Pd
solvent | triethylamine | 24 mL | C(C)N(CC)CC | C6H15N
product | 3-Aminomethyl-5-fluoro-pyridine | NCC=1C=NC=C(C1)F | C6H7FN2
